US05021421
Preparation of 2-(4-n-propyl-1-piperazinyl)-4-(4-fluorophenyl)-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine
A mixture of 2-(1-piperazinyl)-4-(4-fluorophenyl)-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine (1.4 g), n-propyl bromide (0.56 g), potassium carbonate (0.68 g), potassium iodide (0.1 g) and methanol (50 ml) is refluxed for 15 hours. The reaction mixture is concentrated under reduced pressure and thereto is added water. The mixture is extracted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate, and the solvent is distilled off under reduced pressure. To the residue is added a solution of maleic acid in ethanol, and the resulting maleate product is recrystallized from ethanol to give the dimaleate of the desired compound (0.6 g), m.p. 149°-152° C.

reactant | 2-(1-piperazinyl)-4-(4-fluorophenyl)-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine | 1.4 g | N1(CCNCC1)C1=CC(=C2C(=N1)CCCCCC2)C2=CC=C(C=C2)F | C21H26FN3
reactant | n-propyl bromide | 0.56 g | CCCBr | C3H7Br
reactant | potassium carbonate | 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-n-propyl-1-piperazinyl)-4-(4-fluorophenyl)-5,6,7,8,9,10-hexahydrocycloocta[b]pyridine | 0.6 g | C(CC)N1CCN(CC1)C1=CC(=C2C(=N1)CCCCCC2)C2=CC=C(C=C2)F | C24H32FN3
